US09233956B2
3-(5-(2-Chloropyrimidin-4-yl)-2-morpholinothiazol-4-yl)-2-fluoroaniline
To a solution of 2-propen-1-yl {3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}carbamate (57 g, 120 mmol) (prepared by a process analogous to that described for Intermediate 26) in DCM (500 mL), HOAc (17.3 g, 288 mmol), Pd(PPh3)2Cl2 (1.68 g, 2.4 mmol) were added. Then tri-n-butyltin hydride (38.4 g, 132 mmol) was added dropwise to the mixture at 0° C. The mixture was stirred at rt for 30 min. The reaction was quenched by adding saturated NaHCO3 (300 mL) slowly. The two layers were separated. The aqueous layer was extracted with DCM (1 L×2). The combined organic layers were washed with water and brine successively, dried over Na2SO4, filtered and concentrated under reduced pressure to give the crude product, which was washed with petroleum ether (500 mL) to afford the title compound (43 g, 91.6% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.15 (d, J=5.5 Hz, 1H), 6.95-7.07 (m, 1H), 6.83-6.92 (m, 1H), 6.74-6.80 (m, 1H), 6.70 (d, J=5.5 Hz, 1H), 3.57-3.63 (m, 4H), 3.75-3.88 (m, 4H).

reactant | 2-propen-1-yl {3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}carbamate | 120 mmol, 57 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NC(OCC=C)=O)F | C21H19ClFN5O3S
reactant | HOAc | 288 mmol, 17.3 g | CC(=O)O | C2H4O2
reactant | tri-n-butyltin hydride | 132 mmol, 38.4 g | C(CCC)[SnH](CCCC)CCCC
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)2Cl2 | 2.4 mmol, 1.68 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(5-(2-Chloropyrimidin-4-yl)-2-morpholinothiazol-4-yl)-2-fluoroaniline | 43 g, 91.6% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(N)C=CC1)F | C17H15ClFN5OS
